US07345056B2
To a stirring mixture of 9-(5-chloro-thiophene-2-sulfonyl)-9-aza-bicyclo[3.3.1]nonan-3-one (160 mg, 0.50 mmol) in THF/ethanol (3 mL, 1/1, v/v) was added ethyl formate (500 mg, 6.76 mmol) followed by sodium ethoxide (0.56 mL of 21% solution in ethanol). The resulting mixture was heated to 60° C. for 30 minutes after which the solution was cooled to room temperature and quenched by the addition of a saturated aqueous NH4Cl solution (10 mL). The resulting mixture was extracted with EtOAc (2×20 mL) and the combined organic phases were dried (Na2SO4), filtered and concentrated under vacuum to yield 9-(5-chloro-thiophene-2-sulfonyl)-2-hydroxymethylene-9-aza-bicyclo[3.3.1]nonan-3-one as a white solid. This crude product was directly taken to the next reaction without any further purification. Retention time (min)=1.985 min, Method [1], MS (ESI) 348.0 (M+H).

reactant | 9-(5-chloro-thiophene-2-sulfonyl)-9-aza-bicyclo[3.3.1]nonan-3-one | 0.50 mmol, 160 mg | ClC1=CC=C(S1)S(=O)(=O)N1C2CC(CC1CCC2)=O | C12H14ClNO3S2
reactant | ethyl formate | 6.76 mmol, 500 mg | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | 0.56 mL | [O-]CC.[Na+]
solvent | THF ethanol | C1CCOC1.C(C)O
product | 9-(5-chloro-thiophene-2-sulfonyl)-2-hydroxymethylene-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(S1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C13H14ClNO4S2
